US09080259B2
Preparation of N-(2,2,6,6-tetramethyl-4-piperidinyl)-N′-[3-(triethoxysilyl)propyl]urea
59.5 g (0.228 mol) of isocyanatopropyltriethoxysilane were initially charged in 50 ml of dichloromethane (abs.) and admixed with 35.63 g (0.228 mol) of 4-amino-2,2,6,6-tetramethylpiperidine in 30 ml of dichloromethane by dropwise addition at 20-40° C. and stirring for 18 h. Removal of the solvent in vacuo left 97.62 g of N-(2,2,6,6-tetramethyl-4-piperidinyl)-N′-[3-(triethoxysilyl)propyl]urea with residual traces of solvent as a colorless oil. The product was characterized using 1H NMR.

reactant | isocyanatopropyltriethoxysilane | 0.228 mol, 59.5 g | N(=C=O)CCC[Si](OCC)(OCC)OCC | C10H21NO4Si
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | 0.228 mol, 35.63 g | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-(2,2,6,6-tetramethyl-4-piperidinyl)-N′-[3-(triethoxysilyl)propyl]urea | CC1(NC(CC(C1)NC(=O)NCCC[Si](OCC)(OCC)OCC)(C)C)C | C19H41N3O4Si
